US05037834
5-Acetyl-2-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine
N-Acetyl-3-bromo-4-piperidone hydrobromide (5.0 g, 16.6 mmol) in acetone (160 ml) was heated to 60° and treated with triethylamine (2.31 ml, 33.1 mmol) and thioacetamide (1.24 g, 16.6 mmol). The reaction mixture was heated to reflux for 24 hours, then cooled and filtered, to provide a yellow solid which was purified by column chromatography (eluant:89:10:1 chloroform: methanol: concentrated aqueous ammonium hydroxide). The title product was obtained as a yellow oil (995 mg, 5.1 mmol, 31% yield).

reactant | N-Acetyl-3-bromo-4-piperidone hydrobromide | 16.6 mmol, 5.0 g | Br.C(C)(=O)N1CC(C(CC1)=O)Br
reactant | triethylamine | 33.1 mmol, 2.31 ml | C(C)N(CC)CC | C6H15N
reactant | thioacetamide | 16.6 mmol, 1.24 g | C(C)(=S)N | C2H5NS
solvent | acetone | 160 ml | CC(=O)C | C3H6O
product | 5-Acetyl-2-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine | C(C)(=O)N1CC2=C(CC1)N=C(S2)C | C9H12N2OS
